US04988692
STEP A: 1-methyl-5-phenyl-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione
A suspension of 103 g of clobazam, 1 liter of methanol, 23 g of potassium hydroxide in solution in 400 ml of methanol and 50 g of Raney's nickel washed beforehand with water and with methanol, was hydrogenated for 24 hours under a pressure of 800 mbars. 1 liter of methylene chloride was added and the catalyst was filtered off. The solvents were concentrated under reduced pressure and the residue was taken up in methylene chloride. The mixture was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The product obtained was crystallized from methanol, washed with ether and dried to obtain 76.69 g of the sought product melting at 173° C.

reactant | clobazam | 103 g | CN1C=2C=CC(=CC2N(C(=O)CC1=O)C=3C=CC=CC3)Cl | C16H13ClN2O2
reactant | potassium hydroxide | 23 g | [OH-].[K+]
solvent | methanol | 400 ml | CO | CH4O
solvent | methanol | 1 liter | CO | CH4O
product | 1-methyl-5-phenyl-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione | 76.69 g | CN1C(CC(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O | C16H14N2O2
